US07163937B2
Tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(hydroxymethyl)cyclohexylcarbamate (2.0 g) was dissolved in THF (50 mL) prior to the addition of phenyl disulfide (190 mg) and n-Bu3P (0.16 mL). The reaction was heated at reflux for 12 h. After cooling to rt, the reaction was concentrated. The resulting residue was purified by flash chromatography to afford tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(phenylthiomethyl)cyclohexylcarbamate (200 mg). MS found: (M+H)+=554.4.

reactant | Tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(hydroxymethyl)cyclohexylcarbamate | 2.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CO)=O | C24H35N3O6
reactant | phenyl disulfide | 190 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | n-Bu3P | 0.16 mL | P(CCCC)(CCCC)CCCC | C12H27P
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(phenylthiomethyl)cyclohexylcarbamate | 200 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CSC1=CC=CC=C1)=O | C30H39N3O5S
